US05880126
404.5 mg of 5-benzyloxy-4-methoxymethyl-9H-pyrido[3,4-b]indole-3-carboxylic acid-(1-methylethyl)-ester (1 mmol) is dissolved in 15 ml of dimethylformamide and mixed with 188 mg (1.1 mmol) of benzyl bromide and 358 mg of cesium carbonate. It is stirred for 48 hours at room temperature, the reaction mixture s worked up as described in Example 26, and after chromatography, 194 mg of 5-benzyloxy-4-methoxymethyl-9-benzyl-9H-pyrido[3,4-b]indole-3-carboxylic acid-(1-methylethyl)-ester is obtained.

reactant | 5-benzyloxy-4-methoxymethyl-9H-pyrido[3,4-b]indole-3-carboxylic acid-(1-methylethyl)-ester | 1 mmol, 404.5 mg | CC(C)OC(=O)C1=C(C2=C(NC3=CC=CC(=C23)OCC2=CC=CC=C2)C=N1)COC | C24H24N2O4
reactant | benzyl bromide | 1.1 mmol, 188 mg | C(C1=CC=CC=C1)Br | C7H7Br
reactant | cesium carbonate | 358 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | 5-benzyloxy-4-methoxymethyl-9-benzyl-9H-pyrido[3,4-b]indole-3-carboxylic acid-(1-methylethyl)-ester | 194 mg | CC(C)OC(=O)C1=C(C2=C(N(C3=CC=CC(=C23)OCC2=CC=CC=C2)CC2=CC=CC=C2)C=N1)COC | C31H30N2O4
